US07459552B2
Synthesis of 3-amino-2-[(2-methoxyethyl)oxy]-6-methyl-4-[(2,2,2-trifluoroethyl)oxy]pyridine
2-[(2-Methoxyethyl)oxy]-6-methyl-3-nitro-4-[(2,2,2-trifluoroethyl)oxy]pyridine (1.65 g, 5.32 mmol) was dissolved in a mixed solvent of dioxane (30 mL)-methanol (30 mL). Raney nickel (ethanol suspension, 3 mL) was added to the solution. In a hydrogen atmosphere, the mixture was stirred at room temperature for 26 hours. The reaction mixture was subjected to filtration, and the filtrate was concentrated under reduced pressure, to thereby yield 3-amino-2-[(2-methoxyethyl)oxy]-6-methyl-4-[(2,2,2-trifluoroethyl)oxy]pyridine as a pale yellow oil (1.49 g, 99%).

reactant | 2-[(2-Methoxyethyl)oxy]-6-methyl-3-nitro-4-[(2,2,2-trifluoroethyl)oxy]pyridine | 5.32 mmol, 1.65 g | COCCOC1=NC(=CC(=C1[N+](=O)[O-])OCC(F)(F)F)C | C11H13F3N2O5
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Raney nickel | 3 mL | [Ni] | Ni
product | 3-amino-2-[(2-methoxyethyl)oxy]-6-methyl-4-[(2,2,2-trifluoroethyl)oxy]pyridine | NC=1C(=NC(=CC1OCC(F)(F)F)C)OCCOC | C11H15F3N2O3
